US08633190B2
Step 2: 7-Allyl-1,4-dioxa-spiro[4.5]decane-7,9-dicarboxylic acid dimethyl ester
A 1.6 M hexane solution of n-BuLi (101 mL, 161 mmol) was added to the stirred anhydrous THF (300 mL) at −78° C., followed by diisopropylamine (16.2 g, 161 mmol). The reaction mixture was stirred at −78° C. for 15 min and at 0° C. for 1 h. The mixture was re-cooled to −78° C., 1,3-dimethyl-3,4,5,6-tetrahydro-2-(1H)-pyrimidinone (DMPO) (48 g, 372 mmol) was added slowly, and the resultant white suspension was stirred for 30 min. A solution of 1,4-dioxaspiro[4.5]decane-7,9-dicarboxylic acid dimethyl ester (32 g, 124 mmol) in THF (100 mL) was added, the light yellowish solution was stirred for 30 min, then allyl bromide (16.6 g, 137 mmol) was added, the reaction mixture was allowed to warm to room temperature and left stirring at room temperature overnight. The reaction was quenched with saturated aqueous NH4Cl solution and extracted with ethyl acetate; the organic extracts were combined and washed with water, brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure to give 40 g of crude product as viscous oil. Purification by flash column chromatography on silica gel (hexane-chloroform-ethyl acetate 8:1:1) gave 23.8 g (65%) of the title compound, 1-allyl-5,5-difluoro-cyclohexane-1,3-dicarboxylic acid dimethyl ester as colorless oil. 1H NMR (400 MHz, CDCl3), δ: 5.7-5.6 (m, 1H), 5.10-5.00 (m, 2H), 4.0-3.8 (m, 4H), 3.68 (s, 6H), 3.08-2.98 (m, 1H), 2.5-2.3 (m, 2H), 2.15-2.08 (m, 1H), 1.98-1.92 (m, 1H), 1.65-1.58 (m, 1H), 1.45-1.38 (m, 1H), 1.28-1.18 (m, 1H). ES MS: 299.2 (M+1)+.

reactant | n-BuLi | 161 mmol, 101 mL | [Li]CCCC
reactant | diisopropylamine | 161 mmol, 16.2 g | C(C)(C)NC(C)C | C6H15N
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2-(1H)-pyrimidinone | 372 mmol, 48 g | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | 1,4-dioxaspiro[4.5]decane-7,9-dicarboxylic acid dimethyl ester | 124 mmol, 32 g | COC(=O)C1CC2(OCCO2)CC(C1)C(=O)OC | C12H18O6
reactant | allyl bromide | 137 mmol, 16.6 g | C(C=C)Br | C3H5Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | 7-Allyl-1,4-dioxa-spiro[4.5]decane-7,9-dicarboxylic acid dimethyl ester | 23.8 g, 65% | COC(=O)C1(CC2(OCCO2)CC(C1)C(=O)OC)CC=C | C15H22O6
